US07132425B2
A solution of (2-methoxy-ethyl)-(5-nitro-pyrazin-2-yl)-amine (290 mg, 1.46 mmol) in ethyl acetate (25 mL) was treated with 10% palladium on activated carbon (40 mg). The reaction mixture was then placed on a Parr shaker under a hydrogen atomsphere of 50 psi for 4 h. The catalyst was then filtered off through a pad of celite, and the celite pad was then washed well with ethyl acetate. The filtrate was then concentrated in vacuo. Biotage chromatography (FLASH 12M, Silica, 98/2 to 95/5 methylene chloride/methanol) afforded N-(2-methoxy-ethyl)-pyrazine-2,5-diamine (198 mg, 80%) as an orange solid: EI-HRMS m/e calcd for C7H12N4O (M+) 168.1011, found 168.1018.

reactant | (2-methoxy-ethyl)-(5-nitro-pyrazin-2-yl)-amine | 1.46 mmol, 290 mg | COCCNC1=NC=C(N=C1)[N+](=O)[O-] | C7H10N4O3
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
product | N-(2-methoxy-ethyl)-pyrazine-2,5-diamine | 198 mg, 80% | COCCNC1=NC=C(N=C1)N | C7H12N4O
